US04182881
A. N-[Dichlorophosphinyl]-4-fluorobenzamide
A mixture of 19.5 g (0.14 mole) of 4-fluorobenzamide, 29.2 g (0.14 mole) of phosphorus pentachloride and 175 ml of carbon tetrachloride was heated at 60°-70° for 30 min. or until the HCl gas evolution had nearly stopped. The reaction was cooled to 25°-30° and 6.7 g (0.14 mole) of 97% formic acid was added dropwise. Stirring was continued for another 60 min. before the precipitate was collected by filtration, washed with AR carbon tetrachloride and air-dried to give 20.4 g, m.p. softens 109°, melts 110°-112°.

reactant | 4-fluorobenzamide | 0.14 mole, 19.5 g | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
reactant | phosphorus pentachloride | 0.14 mole, 29.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.14 mole, 6.7 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | 175 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-4-fluorobenzamide | ClP(=O)(NC(C1=CC=C(C=C1)F)=O)Cl | C7H5Cl2FNO2P
